US08912176B2
Preparation of 1-methyl-4-({1-[(6-methylpyridin-3-yl)carbonyl]azetidin-3-yl}carbonyl)-1,4-diazepane. Potency Range D
To a stirred solution of 1-({1-[(6-methylpyridin-3-yl)carbonyl]azetidin-3-yl}carbonyl)-1,4-diazepane (50 mg, 0.162 mmol) in formic acid (0.25 mL) was added formaldehyde (37% aq. sol., 0.097 mL, 1.296 mmol) and the reaction mixture was heated at 100° C. for 5 hours. Volatiles were then removed at reduced pressure to give the title compound (38 mg, 75%) after purification by silica FCC (eluting with 95:4.5:0.5 to 92.5:7.25:0.75 gradient of DCM/MeOH/NH3).

reactant | 1-({1-[(6-methylpyridin-3-yl)carbonyl]azetidin-3-yl}carbonyl)-1,4-diazepane | 0.162 mmol, 50 mg | CC1=CC=C(C=N1)C(=O)N1CC(C1)C(=O)N1CCNCCC1 | C16H22N4O2
reactant | formaldehyde | 1.296 mmol, 0.097 mL | C=O | CH2O
solvent | formic acid | 0.25 mL | C(=O)O | CH2O2
product | 1-methyl-4-({1-[(6-methylpyridin-3-yl)carbonyl]azetidin-3-yl}carbonyl)-1,4-diazepane | 38 mg, 75% | CN1CCN(CCC1)C(=O)C1CN(C1)C(=O)C=1C=NC(=CC1)C | C17H24N4O2
